US08466181B2
6-(4-(4-(2-Fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-isopropylnicotinamide
As described for example 22, 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (75 mg, 0.194 mmol) was converted, using isopropylamine instead of 4-aminotetrahydropyran, to the title compound (51 mg, 61%) which was obtained as an off white foam. MS: m/e=406.3 [M+H]+.

reactant | 6-(4-(4-(2-fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.194 mmol, 75 mg | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-(4-(4-(2-Fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-isopropylnicotinamide | 51 mg, 61% | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=NC=C(C(=O)NC(C)C)C=C1)C | C21H20FN7O
